US04324893
1,7-Dimethyl-1,2-Dihydro-4-(4-Methyl-1-Piperazinyl)-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester
A stirred mixture of 5.3 g. (0.019 mole) of 4-chloro-1,7-dimethyl-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester, 1.9 g. (0.019 mole) of N-methylpiperazine and 1.9 g. (0.019 mole) of sodium carbonate in 100 ml. of ethanol was heated under reflux for 5 hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was triturated with 150 ml. of 10% aqueous sodium carbonate and was extracted with 150 ml. of ether. The ether layer was dried over magnesium sulfate, filtered and was diluted with 30 ml. of ethanol. This solution was acidified with an ethereal hydrochloric acid solution. The precipitate which formed was collected and was recrystallized from ethanol to afford 1.0 g. of product as the hydrochloride, hemihydrate, m.p. 278°-280° C. dec.

reactant | 4-chloro-1,7-dimethyl-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 0.019 mole | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1Cl)C)C)=O | C13H13ClN2O3
reactant | N-methylpiperazine | 0.019 mole | CN1CCNCC1 | C5H12N2
reactant | sodium carbonate | 0.019 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1,7-Dimethyl-1,2-Dihydro-4-(4-Methyl-1-Piperazinyl)-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1N1CCN(CC1)C)C)C)=O | C18H24N4O3
